US07304081B2
Step 2. 1-{[1-(2,4-dichlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-one
To a solutin of 1-{[1-(2,4-dichlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-ol (3.05 g, 0.0102 mol) in acetone (50 mL, 0.7 mol) was added Jone's oxidant in water (8.00 M, 2.54 mL) at 0 degrees celsius and the resulting solution was stirred at rt for 1 hour. The mixture was filetered through celite and the filtrate was concentrated. The resulting residue was dissolved in AcOEt, washed with water and brine successively, dried with MgSO4, and concentrated in-vauo. The crude product was purified by Combiflash eluting with 40% AcOEt in hexanes.

reactant | 1-{[1-(2,4-dichlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-ol | 0.0102 mol, 3.05 g | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)N1CC(CC1)O | C14H15Cl2NO2
reactant | acetone | 0.7 mol, 50 mL | CC(=O)C | C3H6O
solvent | water | 8.00 M, 2.54 mL | O | H2O
product | 1-{[1-(2,4-dichlorophenyl)cyclopropyl]carbonyl}pyrrolidin-3-one | ClC1=C(C=CC(=C1)Cl)C1(CC1)C(=O)N1CC(CC1)=O | C14H13Cl2NO2
